US09359338B2
Step 2: Synthesis of N-(3-amino-5-(trifluoromethyl)phenyl)-2-methoxyacetamide
Add Pd/C (10%, 30 mg) to the solution of 2-methoxy-N-(3-nitro-5-(trifluoromethyl)phenyl)acetamide (100 mg, 0.36 mmol) in methanol (6 mL), stir the mixture under hydrogen atmosphere at room temperature for 16 hrs. Filter off the solid, concentrate the filtrate under reduced pressure to yield the crude product (89 mg, 100%) which is used without further purification.

reactant | 2-methoxy-N-(3-nitro-5-(trifluoromethyl)phenyl)acetamide | 0.36 mmol, 100 mg | COCC(=O)NC1=CC(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C10H9F3N2O4
solvent | methanol | 6 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | N-(3-amino-5-(trifluoromethyl)phenyl)-2-methoxyacetamide | 89 mg, 100% | NC=1C=C(C=C(C1)C(F)(F)F)NC(COC)=O | C10H11F3N2O2
